* SPICE Netlist for the given schematic

V1 4 0 DC Vs
R1 4 2 R
C1 2 3 C
XOPAMP 0 2 2 opamp
VOUT 2 0 

* Subcircuit for operational amplifier (ideal model)
.subckt opamp in+ in- out
* This is a generic opamp model 
* For realistic simulations, replace with specific opamp model
.ends opamp

.end